### PR TITLE
Parity-primes

### PR DESCRIPTION
**Pull request by traiansf**
Infinite composition for parity using prime numbers and a validation result for components.

### CODE REVIEW

File: theories/VLSM/Lib/FinSuppFn.v [hunk 1]
```diff
@@ -0,0 +1,381 @@
...
+
+(** * Finitely supported functions *)
+
+(**
+  We model finitely supported functions as consisting of a total function
+  and a finite set of elements from the function's source type (called the domain),
+  satisfying that an element is in the domain iff its image through the
+  function is different than the [inhabitant].
+  Note that for [nat] and [Z] the [inhabitant] is <<0>>.
+*)
```
Comment (palmskog) [inline theories/VLSM/Lib/FinSuppFn.v:14]: Isn't this better modeled using typeclasses? Unless one is using the [packed classes methodology](https://inria.hal.science/inria-00368403/file/main.pdf), there seems to be no obvious gain to package functions and properties together in a record in this way. I can understand collections of non-`Prop` things and collections of only `Prop`.

File: theories/VLSM/Lib/NatExtras.v [hunk 2]
```diff
@@ -159,3 +160,209 @@ Proof.
...
+Qed.
+
+End sec_prod_powers.
+
+(** ** A Prime Factorization Result *)
+
+#[export] Instance prime_dec : forall n, Decision (prime n).
+Proof.
+  apply prime_dec.
+Qed.
```
Comment (palmskog) [inline theories/VLSM/Lib/NatExtras.v:317]: Basically the only thing this does is (1) register the instance with the same name as the decision procedure and (2) make the instance's body opaque.
```suggestion
#[export] Instance prime_decision : forall n, Decision (prime n) := prime_dec.
```

File: theories/VLSM/Lib/NatExtras.v [hunk 3]
```diff
@@ -159,3 +160,209 @@ Proof.
...
+
+Definition primes : Type := dsig prime.
+
+#[export] Instance primes_inhabited : Inhabited primes :=
+  populate (dexist 2%Z prime_2).
+
+Definition primes_powers : Type := fin_supp_nat_fn primes (listset primes).
+Definition prod_primes_powers : primes_powers -> Z :=
```
Comment (palmskog) [inline theories/VLSM/Lib/NatExtras.v:325]:
```suggestion

Definition prod_primes_powers : primes_powers -> Z :=
```

File: theories/VLSM/Core/Examples/ParityComposition.v [hunk 4]
```diff
@@ -1077,3 +921,148 @@ Proof.
...
+
+Inductive EvenConstraint :
+  label primes_vlsm_composition ->
+  state primes_vlsm_composition * option Z -> Prop :=
+| even_constraint : forall l s m, Z.Even m -> EvenConstraint l (s, Some m).
+
+Definition even_constrained_primes_composition : VLSM Z :=
+  constrained_vlsm primes_vlsm_composition EvenConstraint.
+
+Lemma even_constrained_primes_composition_valid_messages_left (m : Z) :
```
Comment (palmskog) [inline theories/VLSM/Core/Examples/ParityComposition.v:989]: Can we get a one-liner explaining what these lemmas are saying, and why they come after the main theorem? Should they be viewed as corollaries?

**Comment by wkolowski** [comment]
@traiansf I think you should split this into two PRs, one for the finite support stuff, the other for the actual vlsm stuff.

**Comment by palmskog** [comment]
> @traiansf I think you should split this into two PRs, one for the finite support stuff, the other for the actual vlsm stuff.

I agree, this would make reviewing a lot easier.

**Comment by traiansf** [comment]
Superseded by PR #302
